US09422262B2
N-(3-butyramidophenyl)-3-chlorobenzamide
N-(3-Aminophenyl)butyramide (30 mg, 0.168 mmol), 3-chlorobenzoic acid (39.5 mg, 0.252 mmol), HOBt (28.4 mg, 0.185 mmol), and silica-supported DCC (from Silicycle Inc., 362 mg, 0.337 mmol) were added to a 13×100 mm test tube with stir bar. The tube was sealed with a rubber septum and dry DCM (3 mL) was added, then the reaction was stirred for 15 h. 50% CH3CN/DCM (4 mL) was then added, followed by silica-supported trimethylammonium carbonate (from Silicycle Inc., 534 mg, 0.337 mmol). The mixture was stirred for 1 h, then filtered through Celite and washed with 50% CH3CN/DCM (4 mL) and concentrated. The crude solid was redissolved with DCM and purified by column chromatography (EtOAc/hexanes gradient) to yield a white solid after precipitating from hexanes (39 mg, 73%). LRMS (ESI+) (M+H): 317.22.

reactant | N-(3-Aminophenyl)butyramide | 0.168 mmol, 30 mg | NC=1C=C(C=CC1)NC(CCC)=O | C10H14N2O
reactant | 3-chlorobenzoic acid | 0.252 mmol, 39.5 mg | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | HOBt | 0.185 mmol, 28.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH3CN DCM | 4 mL | CC#N.C(Cl)Cl
product | N-(3-butyramidophenyl)-3-chlorobenzamide | C(CCC)(=O)NC=1C=C(C=CC1)NC(C1=CC(=CC=C1)Cl)=O | C17H17ClN2O2
